US06320050B1
A solution of triphenylphosphine (212 mg, 0.81 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (144 mg, 0.81 mmol). The reaction mixture was stirred at 0° C. for 10 min and then treated with 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-propionic acid (250 mg, 0.73 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C., where it was stirred for 30 min. The reaction mixture was then treated with 2-amino-5-bromopyridine (279 mg, 1.61 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was directly purified by flash chromatography, (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate), to afford N-(5-bromo-pyridin-2-yl)-3-cyclopentyl-2-(4-methanesulfonyl-3-nitro-phenyl)-propionamide (121 mg, 33%) as a white foam: mp 80-83° C. (foam to gel); FAB-HRMS m/e calcd for C20H22BrN3O5S (M+H)+ 496.0542, found 496.0543.

reactant | triphenylphosphine | 0.81 mmol, 212 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.81 mmol, 144 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-propionic acid | 0.73 mmol, 250 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C15H19NO6S
reactant | 2-amino-5-bromopyridine | 1.61 mmol, 279 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-pyridin-2-yl)-3-cyclopentyl-2-(4-methanesulfonyl-3-nitro-phenyl)-propionamide | 121 mg, 33% | BrC=1C=CC(=NC1)NC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-])=O | C20H22BrN3O5S
